US04010279
Ethyl 2-Methyl-2-{4-[2-(phenyl-acetamido)-ethyl]-biphenyl-4'-oxy}-propionate was prepared from 4-[2-(phenyl-acetamido)-ethyl]-4' -hydroxy-biphenyl and ethyl 2-bromo-2methyl-propionate analogous to Example 1. Yield: 26% of theory; m.p. <20° C.

reactant | 4-[2-(phenyl-acetamido)-ethyl]-4' -hydroxy-biphenyl | C1(=CC=CC=C1)CC(=O)NCCC1=CC=C(C=C1)C1=CC=C(C=C1)O | C22H21NO2
reactant | ethyl 2-bromo-2methyl-propionate | BrC(C(=O)OCC)(C)C | C6H11BrO2
product | Ethyl 2-Methyl-2-{4-[2-(phenyl-acetamido)-ethyl]-biphenyl-4'-oxy}-propionate | Yield: 26% | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)CCNC(CC1=CC=CC=C1)=O | C28H31NO4
